US07081465B2
2,6-Bis[3-(4-methoxyphenylamino)propyloxy]naphthalene[I, R2=4-methoxyphenyl amino propyloxy, R1 & R3═H, R4=4-methoxyphenyl]
A mixture of 2,6-bis(3-chloropropyloxy)naphthalene(1 gm, 0.003 mole) and p-anisidine(1.17 gm, 0.005 mole) was taken in 60 ml dry DMSO. It was refluxed at 140° C. for 12 hrs. The completion of the reaction was checked by TLC. The reaction mixture was poured into distilled water (80 ml) and extracted with ethyl acetate thrice. The organic layer was separated and concentrated to get oily compound which was further crystallized by benzene hexane to get the desired compound, m.p. 129° C., (yield 1.4 gm, 91%).

reactant | 2,6-bis(3-chloropropyloxy)naphthalene | 0.003 mole, 1 gm | ClCCCOC1=CC2=CC=C(C=C2C=C1)OCCCCl | C16H18Cl2O2
reactant | p-anisidine | 0.005 mole, 1.17 gm | COC1=CC=C(C=C1)N | C7H9NO
solvent | DMSO | 60 ml | CS(=O)C | C2H6OS
product | 2,6-Bis[3-(4-methoxyphenylamino)propyloxy]naphthalene | COC1=CC=C(C=C1)NCCCOC1=CC2=CC=C(C=C2C=C1)OCCCNC1=CC=C(C=C1)OC | C30H34N2O4
